US09120749B2
Cyclopropyl{6-(3,5-dichloro-4-hydroxyphenyl)-4-[4-(pyrrolidin-1-ylmethyl)phenylamino]quinolin-3-yl}methanone
Following general procedure F, {6-bromo-4-[4-(pyrrolidin-1-ylmethyl)phenylamino]quinolin-3-yl}(cyclopropyl)methanone (49 mg, 0.108 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (46 mg, 0.162 mmol) to afford the desired product (31 mg, 54%) as a yellow solid: 1H NMR (300 MHz, CD3OD+acetic acid-d4) δ 9.31 (s, 1H), 8.06-7.99 (m, 2H), 7.91 (s, 1H), 7.55 (d, J=8.4 Hz, 2H), 7.35-7.26 (m, 4H), 4.41 (s, 2H), 2.93-2.86 (m, 1H), 2.13-2.03 (m, 4H), 1.23-1.06 (m, 4H); ESI MS m/z 532 [C30H27Cl2N3O2H]+; HPLC 94.9% (AUC), tR=11.43 min.

reactant | {6-bromo-4-[4-(pyrrolidin-1-ylmethyl)phenylamino]quinolin-3-yl}(cyclopropyl)methanone | 0.108 mmol, 49 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC=C(C=C1)CN1CCCC1 | C24H24BrN3O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.162 mmol, 46 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | Cyclopropyl{6-(3,5-dichloro-4-hydroxyphenyl)-4-[4-(pyrrolidin-1-ylmethyl)phenylamino]quinolin-3-yl}methanone | 31 mg, 54% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC1=CC=C(C=C1)CN1CCCC1)C1=CC(=C(C(=C1)Cl)O)Cl | C30H27Cl2N3O2
